US03991200
In 180 ml. of hot water, 9.3 grams (0.06 mole) of 1-methyl-5-nitro-2-imidazolecarboxaldehyde is slurried while 6.7 grams (0.06 mole) of semicarbazide hydrochloride is added portionwise. After 15 minutes of heating, the mixture is cooled in a refrigerator overnight. The solid is then collected and washed with water and methanol, respectively, to give a yellow product, melting point 272°-273° C. (dec.). After drying at 100° for 2 hours under reduced pressure, 11.94 grams of 1-methyl-5-nitro-2-imidazolecarboxaldehyde semicarbazone is formed. This semicarbazone (6.35 grams or 0.03 mole) is added to 10 grams of anhydrous sodium acetate in 50 ml. of glacial acetic acid and 1.25 ml. of bromine is added with continuous stirring. The mixture is heated gradually to give a nearly clear red solution at 50° C. which becomes increasingly turbid with time. After heating at 75 ± 3° for 3 hours, the mixture is cooled and poured on ice. The yellow solid is collected, washed with water, then with methanol, and dried under reduced pressure at 70° C. for 3 hours to give 5 grams of crude 2-amino-5-(1-methyl-5-nitro-2-imidazolyl)-oxadiazole, melting point 284°-287° C. (dec.). This material is dissolved in boiling dimethylformamide, ethanol added, and the mixture cooled to give yellow crystals, melting point 291°-293° C. (dec.).

reactant | 1-methyl-5-nitro-2-imidazolecarboxaldehyde | 0.06 mole, 9.3 grams | CN1C(=NC=C1[N+](=O)[O-])C=O | C5H5N3O3
reactant | semicarbazide hydrochloride | 0.06 mole, 6.7 grams | Cl.NNC(=O)N
solvent | water | O | H2O
product | 1-methyl-5-nitro-2-imidazolecarboxaldehyde semicarbazone | 11.94 grams | CN1C(=NC=C1[N+](=O)[O-])C=NNC(=O)N | C6H8N6O3
